US08461328B2
To the above prepared solution of morpholine-3-carboxylic acid (140 mg, 0.86 mmol, 1 eq) was added aqueous formaldehyde (0.1 g, 1 mmol, 37%, 1.2 equiv), and the solution was stirred under hydrogen atmosphere at room temperature for 24 h in the presence of 10% palladium on carbon (150 mg, 50% water). After completion of the reaction, the catalyst was filtered off and the filtrate was concentrated under vacuum to give 120 mg of the desired 4-methylmorpholine-3-carboxylic acid. The crude material was used in the next step without further purification. 1H NMR (CD3OD, 400 MHz): δ 4.24-4.22 (m, 1H), 4.00-3.99 (m, 1H), 3.74-3.64 (m, 3H), 3.42-3.38 (m, 1H), 3.20-3.19 (m, 1H), 2.95 (s, 3H)

reactant | morpholine-3-carboxylic acid | 0.86 mmol, 140 mg, 1 eq | N1C(COCC1)C(=O)O | C5H9NO3
reactant | formaldehyde | 1 mmol, 0.1 g, 1.2 equiv | C=O | CH2O
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
product | 4-methylmorpholine-3-carboxylic acid | 120 mg | CN1C(COCC1)C(=O)O | C6H11NO3
